US07847100B2
A solution of ethyl 3-({2-[(R)-2-tert-butoxycarbonylamino-2-methyl-3-phenylpropanoyl]hydrazino}carbonyl)-5-(1-cyanocyclopentyl)benzoate (0.10 g, 0.18 mmol) and (methoxycarbonylsulfamoyl)triethylammonium hydroxide, inner salt (0.13 g, 0.54 mmol) in 1.5 mL dichloroethane was heated in the microwave at 120° C. for 8 min. Concentration and flash chromatography (silica gel, 0-45% EtOAc/hexanes) gave ethyl 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoate. 1H NMR (400 MHz, CDCl3) δ 8.57 (app t, J=1.5 Hz, 1H), 8.30 (d, J=1.5 Hz, 2H), 7.29 (m, 3H), 7.08 (m, 2H), 5.11 (br s, 1H), 4.46 (q, J=7.1 Hz, 2H), 3.60 (d, J=13.6 Hz, 1H), 3.44 (d, J=13.6 Hz, 1H), 2.59 (m, 2H), 2.19-1.99 (m, 6H), 1.74 (s, 3H), 1.45 (t, J=7.1 Hz, 3H), 1.43 (s, 9H).

reactant | ethyl 3-({2-[(R)-2-tert-butoxycarbonylamino-2-methyl-3-phenylpropanoyl]hydrazino}carbonyl)-5-(1-cyanocyclopentyl)benzoate | 0.18 mmol, 0.10 g | C(C)(C)(C)OC(=O)N[C@@](C(=O)NNC(=O)C=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C31H38N4O6
reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | ethyl 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoate | C(C)(C)(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N | C31H36N4O5
